** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_x3_custom.sch
.subckt and_x3_custom VDD A OUT B C VSS
*.PININFO VDD:B VSS:B A:I B:I C:I OUT:O
x1 VDD net1 A B C VSS nand_x3_custom
x2 VDD OUT net1 VSS inv
.ends

* expanding   symbol:  nand_x3_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sch
.subckt nand_x3_custom VDD OUT A B C VSS
*.PININFO A:I B:I C:I VSS:B VDD:B OUT:O
M2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M1 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M3 OUT C VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M4 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M5 net1 B net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M6 net2 C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends

